US06200976B1
c. 4-[(7-nitro-1-n-propyl-1,4-dihydro-2H-quinazolin-2,4-dion-3-yl)-methyl]-benzonitrile
Prepared analogously to Example 1c from 4-[(7-nitro-1,4-dihydro-2H-quinazolin-2,4-dion-3-yl)-methyl]-benzonitrile, propyl iodide and potassium carbonate in dimethyl sulphoxide.

reactant | 4-[(7-nitro-1,4-dihydro-2H-quinazolin-2,4-dion-3-yl)-methyl]-benzonitrile | [N+](=O)([O-])C1=CC=C2C(N(C(NC2=C1)=O)CC1=CC=C(C#N)C=C1)=O | C16H10N4O4
reactant | propyl iodide | C(CC)I | C3H7I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | 4-[(7-nitro-1-n-propyl-1,4-dihydro-2H-quinazolin-2,4-dion-3-yl)-methyl]-benzonitrile | [N+](=O)([O-])C1=CC=C2C(N(C(N(C2=C1)CCC)=O)CC1=CC=C(C#N)C=C1)=O | C19H16N4O4
